US04349556
A pinch of sodium acetate was added to 25.8 g (0.1 mol) of 1-(2,4-dichlorophenyl)-1-hydroxy-2-(1,2,4-triazol-1-yl)-ethane in 100 ml of acetic anhydride and the mixture was then kept for 10 hours at a temperature of 100° C. Thereafter the solution was cooled and stirred into 1,000 ml of water. A smeary, crystalline mass precipitated, which was taken up in chloroform. The chloroform solution was washed with sodium bicarbonate and water, dried over sodium sulphate and concentrated by distilling off the solvent in vacuo. The residue crystallized on adding petroleum ether. 13 g (43% of theory) of 1-acetoxy-1-(2,4-dichlorophenyl)-2-(1,2,4-triazol-1-yl)-ethane of melting point 92°-96° C. were obtained.

reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | 1-(2,4-dichlorophenyl)-1-hydroxy-2-(1,2,4-triazol-1-yl)-ethane | 0.1 mol, 25.8 g | ClC1=C(C=CC(=C1)Cl)C(CN1N=CN=C1)O | C10H9Cl2N3O
reactant | water | 1,000 ml | O | H2O
solvent | acetic anhydride | 100 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 1-acetoxy-1-(2,4-dichlorophenyl)-2-(1,2,4-triazol-1-yl)-ethane | 13 g, 43% | C(C)(=O)OC(CN1N=CN=C1)C1=C(C=C(C=C1)Cl)Cl | C12H11Cl2N3O2
